US08168794B2
To a solution of (3aR,7R,7aS)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate (1.0 equiv.) in methanol, at a concentration of 0.1 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 14 hours. At this time the mixture was filtered through a pad of celite eluting with methanol. The volatiles were removed in vacuo yielding (3aR,7R,7aS)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate. LCMS (m/z): 349.1 (MH+); LC Rt=2.06 min.

reactant | (3aR,7R,7aS)-tert-butyl 7-methyl-5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | 1.0 equiv. | C[C@H]1[C@H]2[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])N(C(O2)=O)C(=O)OC(C)(C)C | C17H22N4O6
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
product | (3aR,7R,7aS)-tert-butyl 5-(3-aminopyridin-4-yl)-7-methyl-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | NC=1C=NC=CC1N1C[C@@H]2[C@H]([C@@H](C1)C)OC(N2C(=O)OC(C)(C)C)=O | C17H24N4O4
